US07662581B1
To a solution of [1-(2-benzylamino-5-bromo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (250 mg, 0.9 mmol) and triethylamine (0.19 ml, 1.35 mmol) in dry DMF (5 ml), was added Boc-D-valine (290 mg, 1.35 mmol) followed by TBTU (290 mg, 0.9 mmol,). The reaction mixture was stirred at room temperature overnight. Ethyl acetate was added. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered, and the filtrated was concentrated in vacuo. The crude material was purified by flash chromatography to yield [1-(2-Benzylamino-5-methyl-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester.

reactant | [1-(2-benzylamino-5-bromo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.9 mmol, 250 mg | C(C)(C)(C)OC(NC(C(C)C)C(NC1=C(C=CC(=C1)Br)NCC1=CC=CC=C1)=O)=O | C23H30BrN3O3
reactant | triethylamine | 1.35 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-D-valine | 1.35 mmol, 290 mg | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | TBTU | 0.9 mmol, 290 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-(2-Benzylamino-5-methyl-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(C)C)C(NC1=C(C=CC(=C1)C)NCC1=CC=CC=C1)=O)=O | C24H33N3O3
